US08791102B2
Proceeding as in Reference 5, but substituting 4-(4-fluorophenoxy)aniline and (S)-3-(benzyloxy)-2-(tert-butoxycarbonylamino)propanoic acid, gave (S)-2-amino-3-(benzyloxy)-N-(4-(4-fluorophenoxy)phenyl)propanamide (443 mg, 69%).

reactant | 4-(4-fluorophenoxy)aniline | FC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C12H10FNO
reactant | (S)-3-(benzyloxy)-2-(tert-butoxycarbonylamino)propanoic acid | C(C1=CC=CC=C1)OC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C15H21NO5
product | (S)-2-amino-3-(benzyloxy)-N-(4-(4-fluorophenoxy)phenyl)propanamide | 443 mg, 69% | N[C@H](C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F)COCC1=CC=CC=C1 | C22H21FN2O3
